US08580841B2
Step B: Preparation of 2-(7-(2,4-Bis(trifluoromethyl)benzyloxy)-1,2,3,4-tetrahydrocyclopenta[b]indol-3-yl)acetic Acid.
To a solution of ethyl 2-(7-(2,4-bis(trifluoromethyl)benzyloxy)-1,2,3,4-tetrahydrocyclopenta[b]indol-3-yl)acetate (0.191 g, 0.393 mmol) in dioxane (1.312 mL) and water (0.656 mL) was added NaOH (0.826 mL, 0.826 mmol). The mixture was heated under reflux for 2 h, cooled to room temperature and diluted with water. After washing with DCM, the aqueous layer was acidified with 1 M HCl and extracted with EtOAc (thrice). The combined extracts were washed with brine, dried over MgSO4 and concentrated to give the title compound as a magenta solid (19.9 mg). LCMS m/z=458.1 [M+H]+, 1H NMR (400 MHz, DMSO-d6) δ ppm 2.03-2.13 (m, 1H), 2.35 (dd, J=15.98, 9.03 Hz, 1H), 2.58-2.78 (m, 4H), 3.41-3.52 (m, 1H), 5.31 (s, 2H), 6.72 (dd, J=8.78, 2.46 Hz, 1H), 6.92 (d, J=2.40 Hz, 1H), 7.23 (d, J=8.72 Hz, 1H), 7.99-8.19 (m, 3H), 10.52 (s, 1H), 12.19 (s, 1H).

reactant | ethyl 2-(7-(2,4-bis(trifluoromethyl)benzyloxy)-1,2,3,4-tetrahydrocyclopenta[b]indol-3-yl)acetate | 0.393 mmol, 0.191 g | FC(C1=C(COC2=CC=3C4=C(NC3C=C2)C(CC4)CC(=O)OCC)C=CC(=C1)C(F)(F)F)(F)F | C24H21F6NO3
reactant | NaOH | 0.826 mmol, 0.826 mL | [OH-].[Na+]
solvent | dioxane | 1.312 mL | O1CCOCC1 | C4H8O2
solvent | water | 0.656 mL | O | H2O
product | 2-(7-(2,4-Bis(trifluoromethyl)benzyloxy)-1,2,3,4-tetrahydrocyclopenta[b]indol-3-yl)acetic Acid | 19.9 mg | FC(C1=C(COC2=CC=3C4=C(NC3C=C2)C(CC4)CC(=O)O)C=CC(=C1)C(F)(F)F)(F)F | C22H17F6NO3
